US04318913
N'-Cyano-N-[3-[3-(1-pyrrolidinylmethyl)phenoxy]propyl]carbamimidothioic acid, methyl ester
A solution of N-cyano-carbonimidodithioic acid dimethyl ester (5 g) in ethyl acetate (50 ml) was added to a solution of 3-[3-(1-pyrrolidinylmethyl)phenoxy]propanamine in ethyl acetate (60 ml). The reaction mixture was stirred at room temperature for 1 hr to give the title compound as an off-white solid m.p. 107°-108.5° (7.45 g). TLC silica; ethyl acetate: isopropanol:water:0.88 ammonia (25:15:8:2) single spot Rf 0.7.

reactant | N-cyano-carbonimidodithioic acid dimethyl ester | 5 g | CSC(=NC#N)SC | C4H6N2S2
reactant | 3-[3-(1-pyrrolidinylmethyl)phenoxy]propanamine | N1(CCCC1)CC=1C=C(OCCCN)C=CC1 | C14H22N2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | N'-Cyano-N-[3-[3-(1-pyrrolidinylmethyl)phenoxy]propyl]carbamimidothioic acid, methyl ester | 7.45 g | C(#N)N=C(NCCCOC1=CC(=CC=C1)CN1CCCC1)SC | C17H24N4OS
